.title kicad schematic

.include 4_and.sub
.include 4_OR.sub
* u6 2/b plot_v1
* u25 net-_u18-pad2_ net-_u25-pad2_ d_inverter
* u18 2/b net-_u18-pad2_ adc_bridge_1
* u69 net-_u25-pad2_ net-_u29-pad1_ d_inverter
* u14 6/1c0 net-_u14-pad2_ adc_bridge_1
* u1 1/1gbar plot_v1
* u2 6/1c0 plot_v1
v4 4/1c2 gnd pulse(5 0 0 10n 10n 1m 2m)
v3 5/1c1 gnd pulse(5 0 0 10n 10n 1m 2m)
v5 3/1c3 gnd pulse(5 0 0 10n 10n 1m 2m)
v6 2/b gnd pulse(5 0 0 10n 10n 4m 8m)
* u5 3/1c3 plot_v1
* u3 5/1c1 plot_v1
* u16 4/1c2 net-_u16-pad2_ adc_bridge_1
* u4 4/1c2 plot_v1
* u17 3/1c3 net-_u17-pad2_ adc_bridge_1
* u15 5/1c1 net-_u15-pad2_ adc_bridge_1
v2 6/1c0 gnd pulse(5 0 0 10n 10n 1m 2m)
v1 1/1gbar gnd pulse(5 0 0 10n 10n 4m 8m)
* u67 net-_u13-pad2_ net-_u27-pad1_ d_inverter
* u13 1/1gbar net-_u13-pad2_ adc_bridge_1
* u27 net-_u27-pad1_ net-_u27-pad2_ d_buffer
* u29 net-_u29-pad1_ net-_u29-pad2_ d_buffer
* u30 net-_u30-pad1_ net-_u30-pad2_ d_buffer
* u70 net-_x1-pad2_ net-_u30-pad1_ d_inverter
* u22 12/2c2 net-_u22-pad2_ adc_bridge_1
* u10 12/2c2 plot_v1
* u9 11/2c1 plot_v1
* u21 11/2c1 net-_u21-pad2_ adc_bridge_1
v11 13/2c3 gnd pulse(5 0 0 10n 10n 1m 2m)
v12 15/2gbar gnd pulse(0 5 0 10n 10n 4m 8m)
* u11 13/2c3 plot_v1
* u24 15/2gbar net-_u24-pad2_ adc_bridge_1
* u23 13/2c3 net-_u23-pad2_ adc_bridge_1
* u68 net-_u24-pad2_ net-_u28-pad1_ d_inverter
* u12 15/2gbar plot_v1
v10 12/2c2 gnd pulse(5 0 0 10n 10n 1m 2m)
v9 11/2c1 gnd pulse(5 0 0 10n 10n 1m 2m)
v7 14/a gnd pulse(5 0 0 10n 10n 2m 4m)
v8 10/2c0 gnd pulse(5 0 0 10n 10n 1m 2m)
* u20 10/2c0 net-_u20-pad2_ adc_bridge_1
* u19 14/a net-_u19-pad2_ adc_bridge_1
* u8 10/2c0 plot_v1
* u7 14/a plot_v1
* u26 net-_u19-pad2_ net-_x1-pad2_ d_inverter
x7 net-_x1-pad2_ net-_u29-pad2_ net-_u16-pad2_ net-_u27-pad2_ net-_x7-pad5_ 4_and
x3 net-_u29-pad2_ net-_u30-pad2_ net-_u17-pad2_ net-_u27-pad2_ net-_x3-pad5_ 4_and
x2 net-_u25-pad2_ net-_u30-pad2_ net-_u15-pad2_ net-_u27-pad2_ net-_x2-pad5_ 4_and
x1 net-_u25-pad2_ net-_x1-pad2_ net-_u14-pad2_ net-_u27-pad2_ net-_x1-pad5_ 4_and
x9 net-_x1-pad5_ net-_x2-pad5_ net-_x7-pad5_ net-_x3-pad5_ net-_u62-pad1_ 4_OR
x4 net-_u25-pad2_ net-_x1-pad2_ net-_u20-pad2_ net-_u28-pad2_ net-_x10-pad1_ 4_and
x5 net-_u25-pad2_ net-_u30-pad2_ net-_u21-pad2_ net-_u28-pad2_ net-_x10-pad2_ 4_and
* u33 9/2y plot_v1
* u32 net-_u31-pad2_ 9/2y dac_bridge_1
* u31 net-_u31-pad1_ net-_u31-pad2_ d_inverter
x10 net-_x10-pad1_ net-_x10-pad2_ net-_x10-pad3_ net-_x10-pad4_ net-_u31-pad1_ 4_OR
x8 net-_x1-pad2_ net-_u29-pad2_ net-_u22-pad2_ net-_u28-pad2_ net-_x10-pad3_ 4_and
x6 net-_u30-pad2_ net-_u29-pad2_ net-_u23-pad2_ net-_u28-pad2_ net-_x10-pad4_ 4_and
* u62 net-_u62-pad1_ net-_u62-pad2_ d_inverter
* u64 net-_u62-pad2_ 7/1y dac_bridge_1
* u66 7/1y plot_v1
* u28 net-_u28-pad1_ net-_u28-pad2_ d_buffer
a1 net-_u18-pad2_ net-_u25-pad2_ u25
a2 [2/b ] [net-_u18-pad2_ ] u18
a3 net-_u25-pad2_ net-_u29-pad1_ u69
a4 [6/1c0 ] [net-_u14-pad2_ ] u14
a5 [4/1c2 ] [net-_u16-pad2_ ] u16
a6 [3/1c3 ] [net-_u17-pad2_ ] u17
a7 [5/1c1 ] [net-_u15-pad2_ ] u15
a8 net-_u13-pad2_ net-_u27-pad1_ u67
a9 [1/1gbar ] [net-_u13-pad2_ ] u13
a10 net-_u27-pad1_ net-_u27-pad2_ u27
a11 net-_u29-pad1_ net-_u29-pad2_ u29
a12 net-_u30-pad1_ net-_u30-pad2_ u30
a13 net-_x1-pad2_ net-_u30-pad1_ u70
a14 [12/2c2 ] [net-_u22-pad2_ ] u22
a15 [11/2c1 ] [net-_u21-pad2_ ] u21
a16 [15/2gbar ] [net-_u24-pad2_ ] u24
a17 [13/2c3 ] [net-_u23-pad2_ ] u23
a18 net-_u24-pad2_ net-_u28-pad1_ u68
a19 [10/2c0 ] [net-_u20-pad2_ ] u20
a20 [14/a ] [net-_u19-pad2_ ] u19
a21 net-_u19-pad2_ net-_x1-pad2_ u26
a22 [net-_u31-pad2_ ] [9/2y ] u32
a23 net-_u31-pad1_ net-_u31-pad2_ u31
a24 net-_u62-pad1_ net-_u62-pad2_ u62
a25 [net-_u62-pad2_ ] [7/1y ] u64
a26 net-_u28-pad1_ net-_u28-pad2_ u28
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u25 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u18 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u69 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u14 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u16 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u17 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u15 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u67 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u13 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u27 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u29 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u30 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u70 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u22 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u21 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u24 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u23 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u68 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u20 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u19 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u26 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u32 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u31 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u62 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u64 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u28 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
.tran 0.01e-03 8e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(2/b)
plot v(1/1gbar)
plot v(6/1c0)
plot v(3/1c3)
plot v(5/1c1)
plot v(4/1c2)
plot v(12/2c2)
plot v(11/2c1)
plot v(13/2c3)
plot v(15/2gbar)
plot v(10/2c0)
plot v(14/a)
plot v(9/2y)
plot v(7/1y)
.endc
.end
